US08071807B2
To {4-hydroxy-3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester (0.50 g, 1.16 mmol) in DMF (10 mL) was added N-phenyl-bis(trifluoromethanesulfonimide) (0.455 g, 1.27 mmol) and cesium carbonate (0.755 g, 2.32 mmol), and the reaction was stirred at room temperature for 2 hours. After work-up with EtOAc and H2O, the crude material was purified by silica gel chromatography to give {3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-trifluoromethanesulfonyloxy-phenyl}-acetic acid methyl ester.

reactant | {4-hydroxy-3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester | 1.16 mmol, 0.50 g | COC(CC1=CC(=C(C=C1)O)OC1=C(C=C(C=C1)[N+](=O)[O-])CSCC(F)(F)F)=O | C18H16F3NO6S
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | 1.27 mmol, 0.455 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | cesium carbonate | 2.32 mmol, 0.755 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | {3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-trifluoromethanesulfonyloxy-phenyl}-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)OC1=C(C=C(C=C1)[N+](=O)[O-])CSCC(F)(F)F)=O | C19H15F6NO8S2
